US04268810
A mixture of 40 parts by weight of acetoguanamine, 60 parts by weight of cresol (60% by weight of m-cresol and 40% by weight of p-cresol) and 50 parts by weight of paraformaldehyde was allowed to react in methanol in the presence of sodium hydroxide catalyst to obtain a methanol solution of acetoguanamine-cresol co-condensation resin. A coil was wound using an insulating paper and immersed in said methanol solution under a vacuum of 40 mmHg for one hour. The coil was then dried at 60° C. for 3 hours, then at 100° C. for 2 hours, and immersed in the same epoxy resin composition as used above except for the powdered silica. After immersion under a vacuum of 0.1 mmHg for 30 minutes and subsequent application of an air pressure of 4 kg/cm2, the coil was removed from the resin composition bath and heated at 100° C. for 5 hours, then at 130° C. for 10 hours to harden the resin. The coil thus treated was disposed in a synthetic resin casing and covered at 80° C. with a resin composition containing 100 parts by weight of the above-said epoxy resin composition and 150 parts by weight of powdered silica. After having been defoamed under a vacuum of 5 mmHg for 3 hours, the coil potted with the resin was heated to harden the resin at 130° C. under atmospheric pressure for 15 hours to obtain an integrated resin-molded coil.

reactant | acetoguanamine | CC1=NC(=NC(=N1)N)N | C4H7N5
reactant | cresol | C1(=CC=CC=C1O)C | C7H8O
reactant | paraformaldehyde | C=O | CH2O
solvent | methanol | CO | CH4O
catalyst | sodium hydroxide | [OH-].[Na+]
product | acetoguanamine cresol | CC1=NC(=NC(=N1)N)N.C1(=CC=CC=C1O)C | InChI=1S/C7H8O.C4H7N5/c1-6-4-2-3-5-7(6)8;1-2-7-3(5)9-4(6)8-2/h2-5,8H,1H3;1H3,(H4,5,6,7,8,9)
